US08383637B2
N-[3-(4-Nitro-3-propylaminomethyl-phenylsulfanyl)-phenyl]-benzenesulfonamide
A mixture of N-[3-(3-formyl-4-nitro-phenylsulfanyl)-phenyl]-benzenesulfonamide (0.0027 mol), propylamine (0.003 mol) and NaBH(OAc)3 (0.0041 mol) in DCE (60 mL) was reacted overnight at room temperature. Then a 10% NaOH solution was added and the mixture was extracted with CH2Cl2. The extract was dried (MgSO4) and then purified by column chromatography over silica gel (eluent: 1:0 to 7:1 CH2Cl2:CH3OH). The product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | N-[3-(3-formyl-4-nitro-phenylsulfanyl)-phenyl]-benzenesulfonamide | 0.0027 mol | C(=O)C=1C=C(C=CC1[N+](=O)[O-])SC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1 | C19H14N2O5S2
reactant | propylamine | 0.003 mol | C(CC)N | C3H9N
reactant | NaBH(OAc)3 | 0.0041 mol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | DCE | 60 mL | ClCCCl | C2H4Cl2
product | N-[3-(4-Nitro-3-propylaminomethyl-phenylsulfanyl)-phenyl]-benzenesulfonamide | [N+](=O)([O-])C1=C(C=C(C=C1)SC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)CNCCC | C22H23N3O4S2
